US09034866B2
Synthesis of 4-(dimethylamino)-8-fluoro-9-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide
Similar to as described in General Procedure G, racemic 9-bromo-4-(dimethylamino)-8-fluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide was reacted with racemic 2-(pyridin-2-yl)but-3-yn-2-ol to give an isomeric mixture of the titled compound. The mixture (80 mg) was separated by Chiral-Prep-HPLC with the following conditions (2#-Gilson Gx 281(HPLC-09)): Column, CHIRALPAK AD-H SFC, 5*25 cm, 5 um; mobile phase, Hex (0.2% TEA) and ethanol (0.2% TEA) (hold 30.0% ethanol (0.2% TEA) in 30 min); Detector, UV 220/254 nm to give 1st 3.7 mg (2%) of Compound 1, then 10.2 mg (4%) of Compounds 2 and 18.6 mg (8%) Compound 3. The stereochemistry of these compounds has not been assigned.

reactant | racemic 9-bromo-4-(dimethylamino)-8-fluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)N)N(C)C)C=C1F | C14H13BrFN3O2S
reactant | racemic 2-(pyridin-2-yl)but-3-yn-2-ol | N1=C(C=CC=C1)C(C)(C#C)O | C9H9NO
product | 4-(dimethylamino)-8-fluoro-9-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | CN(C1COC2=C(C=3N=C(SC31)C(=O)N)C=C(C(=C2)F)C#CC(C)(C2=NC=CC=C2)O)C | C23H21FN4O3S
